US03957988
2,7-Bis[5-(diallylamino)valeryl]thioxanthene
A mixture of 22.3 g (0.05 mole) of 2,7-bis(5-chlorovaleryl)thioxanthene, 1 g of potassium iodide, 100 ml of diallylamine and 200 ml of tetrahydrofuran was placed in a Paar bomb and heated to 120°C. with stirring for 24 hours. Upon cooling, the mixture was filtered and the filtrate evaporated to dryness. The resulting residue was dissolved in dilute HCl and extracted with ether. The aqueous portion was made basic, extracted with methylene chloride, dried over magnesium sulfate and filtered. The filtrate was heated to boiling, treated with charcoal, filtered and filtrate evaporated to dryness. The residue was chromatographed on a column of alumina and eluted with methylene chloride. The resulting oil was dissolved in diethyl ether, dried over molecular sieves, filtered and the ether evaporated. This process was repeated several times to yield the desired product.

reactant | 2,7-bis(5-chlorovaleryl)thioxanthene | 0.05 mole, 22.3 g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCCl)=O | C23H24Cl2O2S
reactant | potassium iodide | 1 g | [I-].[K+]
reactant | diallylamine | 100 ml | C(C=C)NCC=C | C6H11N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,7-Bis[5-(diallylamino)valeryl]thioxanthene | C(C=C)N(CCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCN(CC=C)CC=C)=O)CC=C | C35H44N2O2S
